* C:\Users\torica\git\LTs_repo\LPF_RC_step_R.asc
R1 SIG OUT {R}
C1 OUT 0 {C}
V1 SIG 0 SINE(1 1 1k)
.step param R 100 2k 200
.param C=10u
.tran 0 102m 100m
.backanno
.end
