* C:\Users\torica\git\LTs_repo\LPF_RC_step_f_sig.asc
R1 SIG OUT {R}
C1 OUT 0 {C}
V1 SIG 0 SINE(1 1 {f_sig})
.step param f_sig 100 2k 200
.param C=10u R=300
.tran 0 105m 100m
.backanno
.end
